US06403610B1
0.42 g of sodium borohydride was added portionwise for approximately 1 hour with stirring and under an inert atmosphere, to a solution cooled to a temperature in the region of 15° C., of 3.5 g of methyl (3R,4R)-1-[2-(cyclohexylthio)ethyl]-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate in 50 cm3 of methanol to which had been added 1 drop of 5N sodium hydroxide solution. The mixture was stirred for 2 hours at this temperature and then cooled to approximately 10° C. 10 cm3 of water were then added dropwise. The mixture was concentrated under reduced pressure (5 kPa) at a temperature in the region of 45° C. After adding 100 cm3 of water to the residue obtained, the mixture was extracted with 2 times 100 cm3 of ethyl acetate. The combined extracts were dried over sodium sulfate, filtered, and concentrated as above. An oil was obtained, which product was purified by chromatography under a nitrogen pressure of 50 kPa on a column of silica gel (particle size 20-45 μm; diameter 3 cm; height 35 cm), elution was carried out with ethyl acetate, and 30-cm3 fractions were collected. Fractions 19 to 42 were combined and concentrated as under the above conditions 2.44 g of a product were obtained, the hydrochloride of which was prepared in the following way: 0.5 g of product was dissolved in 10 cm3 of diethyl ether and then the solution was poured into 5 cm3 of a 1 N solution of hydrochloric acid in ether. 10 cm3 of ether were added and then the mixture was left to act for 1 hour at a temperature in the region of 20° C. The mixture was filtered and the cake was washed with 2 times 10 cm3 of diethyl ether and dried under reduced pressure (5 kPa) at a temperature in the region of 20° C. and then in an oven under reduced pressure (10 Pa) at a temperature in the region of 60° C. 0.46 g of methyl (3R,4R)-1-[2-(cyclohexylthio)ethyl]-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate dihydrochloride was obtained in the form of a solid with a pale pink color melting at 80° C. while softening.

reactant | sodium borohydride | 0.42 g | [BH4-].[Na+]
reactant | methyl (3R,4R)-1-[2-(cyclohexylthio)ethyl]-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate | 3.5 g | C1(CCCCC1)SCCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)=O)CC(=O)OC | C29H40N2O4S
reactant | water | 10 cm3 | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 cm3 | CO | CH4O
catalyst | sodium hydroxide | 5N, 1 drop | [OH-].[Na+]
solvent | diethyl ether | 10 cm3 | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
solvent | ether | 10 cm3 | CCOCC | C4H10O
product | methyl (3R,4R)-1-[2-(cyclohexylthio)ethyl]-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate dihydrochloride | 0.46 g | Cl.Cl.C1(CCCCC1)SCCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)O)CC(=O)OC | InChI=1S/C29H42N2O4S.2ClH/c1-34-23-9-10-27-26(19-23)25(12-14-30-27)28(32)11-8-21-13-15-31(20-22(21)18-29(33)35-2)16-17-36-24-6-4-3-5-7-24;;/h9-10,12,14,19,21-22,24,28,32H,3-8,11,13,15-18,20H2,1-2H3;2*1H/t21-,22+,28?;;/m1../s1
